US07560551B2
To tert-butyl 4-iodo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (1.00 g, 2.90 mmol), 2-chloropyridin-3-ylboronic acid (1.14 g, 7.24 mmol), and sodium carbonate (1.23 g, 11.6 mmol) was added dioxane (10 mL) and water (4 mL). The mixture was stirred at RT for 5 minutes, then tri-t-butylphosphonium tetrafluoroborate (0.084 g, 0.290 mmol) and palladium(II) acetate (0.033 g, 0.145 mmol) were added and the mixture was heated to 100° C. in a sealed tube for 23 hours. The reaction was diluted with EtOAc and extracted with 1N sodium bicarbonate. The organics were dried over sodium sulfate, filtered and concentrated. The crude was purified by ISCO silica gel chromatography (10-90% EtOAc/hexanes; 80 g column) and product fractions were concentrated to yield 4-(2-chloropyridin-3-yl)-1H-pyrazolo[3,4-b]pyridine as a white solid. MS m/z=231 [M+1]+. Calc'd for C11H7ClN4: 230.66.

reactant | tert-butyl 4-iodo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 2.90 mmol, 1.00 g | IC1=C2C(=NC=C1)N(N=C2)C(=O)OC(C)(C)C | C11H12IN3O2
reactant | 2-chloropyridin-3-ylboronic acid | 7.24 mmol, 1.14 g | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
reactant | sodium carbonate | 11.6 mmol, 1.23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.290 mmol, 0.084 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.145 mmol, 0.033 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 4 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(2-chloropyridin-3-yl)-1H-pyrazolo[3,4-b]pyridine | ClC1=NC=CC=C1C1=C2C(=NC=C1)NN=C2 | C11H7ClN4
